US07550598B2
(Z)—N-methyl-4-(5-oxo-4-(quinolin-2(1H)-ylidene)-4,5-dihydro-1H-pyrazol-3-yl)benzenesulfonamide
The title compound was synthesized using N-methyl-4-(5-oxo-4,5-dihydro-1H-pyrazol-3-yl)benzenesulfonamide and quinoline N-oxide according to the procedure described in Example 23. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.49 (s, 3H) 7.09 (s, 1H) 7.48-7.60 (m, 2H) 7.76-7.81 (m, 3H) 7.83-7.90 (m, 4H) 8.25 (d, J=9.09 Hz, 2H) 11.90 (s, 1H); ESI-MS: m/z calc'd for C19H16N4O3S 380.42. found 381.2 (M+H)+.

reactant | N-methyl-4-(5-oxo-4,5-dihydro-1H-pyrazol-3-yl)benzenesulfonamide | CNS(=O)(=O)C1=CC=C(C=C1)C1=NNC(C1)=O | C10H11N3O3S
reactant | quinoline N-oxide | [N+]1(=CC=CC2=CC=CC=C12)[O-] | C9H7NO
product | (Z)—N-methyl-4-(5-oxo-4-(quinolin-2(1H)-ylidene)-4,5-dihydro-1H-pyrazol-3-yl)benzenesulfonamide | CNS(=O)(=O)C1=CC=C(C=C1)C/1=NNC(\C1=C\1/NC2=CC=CC=C2C=C1)=O | C19H16N4O3S
